US05981539
3-Quinuclidinone trimethylenethioketal.
A mixture of 3-quinuclidinone hydrochloride (10 g, 62 mmol), 1,3-propanedithiol (13.4 g, 124 mmol), acetic acid (40 ml), and methanesulfonic acid (2 ml) was refluxed overnight. Most of the acetic acid was evaporated, 200 ml of water was added, and the solution was washed twice with ether. The pH of the solution was adjusted to basic by the addition of 1 M aqueous sodium hydroxide and the product was extracted with two portions of ethyl acetate. Drying over magnesium sulfate and evaporation of the solvent gave the title compound (13.3 g, 61.9 mmol, 100%) as a colorless solid 71-72° C.

reactant | 3-quinuclidinone hydrochloride | 62 mmol, 10 g | Cl.N12CC(C(CC1)CC2)=O
reactant | 1,3-propanedithiol | 124 mmol, 13.4 g | C(CCS)S | C3H8S2
reactant | methanesulfonic acid | 2 ml | CS(=O)(=O)O | CH4O3S
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 3-Quinuclidinone trimethylenethioketal | 61.9 mmol, 13.3 g, 100% | C1CCSC2(CN3CCC2CC3)O1 | C10H17NOS
